US05073556
20 ml of a 6% w/v aqueous solution of sodium hydroxide were added to a solution of 5.79 g (0.021 moles) of ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoate [(XXVI), X=X'=F, R16 =C2H5O] [prepared as described in step (b) above] in 40 ml of ethanol, and the mixture was left at room temperature overnight. The reaction mixture was then acidified by the addition of 3.5 ml of concentrated aqueous hydrochloric acid, and, after concentration by evaporation under reduced pressure, it was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate, and then the solvent was removed by distillation under reduced pressure, to give 5.22 g of 3-difluoromethoxy-2,4,5-trifluorobenzoic acid as a colorless powder, melting at 68°-70° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl 3-difluoromethoxy-2,4,5-trifluorobenzoate | 0.021 moles, 5.79 g | FC(OC=1C(=C(C(=O)OCC)C=C(C1F)F)F)F | C10H7F5O3
reactant | hydrochloric acid | 3.5 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-difluoromethoxy-2,4,5-trifluorobenzoic acid | 5.22 g | FC(OC=1C(=C(C(=O)O)C=C(C1F)F)F)F | C8H3F5O3
